* C:\Users\hijwh\Documents\GitHub\wpt-symbolic-solution\testdata\20260913wpt1to3.asc
* Generated by LTspice 26.0.1 for Windows.
VS N003 0 AC 5
RS y1 N003 2.8
L1 N002 N009 100µ
C1 N009 0 3.9n
L2 N004 0 100µ
C2 N005 0 3.9n
RL1 y2 0 50
Rp1 y2 N004 2.5
Rp2 y2 N005 0.2
L3 N006 0 100µ
C3 N007 0 3.9n
RL2 y3 0 50
Rp3 y3 N006 2.5
Rp4 y3 N007 0.2
L4 N008 0 100µ
C4 y4 N001 3.9n
RL3 y4 0 50
Rp5 N001 N008 2.5
Rp0 y1 N002 1.5
k12 L1 L2 0.1
.ac dec 1000 100k 500k
k13 L1 L3 0.1
k23 L2 L3 0.1
k14 L1 L4 0.1
k24 L2 L4 0.1
k34 L3 L4 0.1
.backanno
.end
