* C:\Users\hijwh\Documents\GitHub\symbolic-computation-impedance\20260906wptSSSP2.asc
* Generated by LTspice 26.0.1 for Windows.
VS N002 0 AC 5
RS N001 N002 2.8
L1 N001 N007 100µ
C1 N007 0 3.9n
L2 N003 0 100µ
C2 N004 0 3.9n
RL1 y1 0 50
Rp1 y1 N003 2.5
Rp2 y1 N004 0.2
L3 N005 0 100µ
C3 N006 0 3.9n
RL2 y2 0 50
Rp3 y2 N005 2.5
Rp4 y2 N006 0.2
k12 L1 L2 0.1
.ac dec 1000 100k 500k
k13 L1 L3 0.1
k23 L2 L3 0.1
.backanno
.end
